US06949562B2
A solution of 2.3 g (11.6 mmol) of tosylmethyl isocyanide in 25 mL of anhydrous THF is cooled to −50° C. under a nitrogen atmosphere. To this solution is added dropwise 23 mL (11.6 mmol) of potassium bis(trimethylsilyl) amide (0.5M solution in toluene) keeping the temperature <−50° C. After addition is complete this mixture is stirred for a 0.5 hour. To this mixture a solution of 1.8 g (5.8 mmol) of 3-{3-[[benzyl-methyl-amino]-methyl]-pyridin-2-yl}-acrylic acid ethyl ester dissolved in 10 mL of anhydrous THF is added dropwise maintaining a temperature <−50° C. After addition is complete the reaction mixture is quenched with 10 mL of water and extracted with ethyl acetate. The organic extracts are dried (Na2SO4) and evaporated. The residue is redissolved in approximately 100 mL of ethyl acetate and 100 mL of water. The pH of the mixture is adjusted to 2.0 with 1N HCL. The ethyl acetate layer is separated from the water layer. An additional 100 mL of ethyl acetate is added to the water layer and the pH adjusted to 9.0 with 1N NaOH. The ethyl acetate layer is separated from the water layer, dried (Na2SO4) and evaporated to yield 1.9 grams of 4-{3-[[benzyl-methyl-amino]-methyl]-pyridin-2-yl}-1H-pyrrole-3-carboxylic acid ethyl ester. 1H NMR (CDCl3) δ 8.5 (m, 1H), 8.0 (m, 1H), 7.35 (s, 6H), 7.30 (m, 5H), 7.20 (m, 1H), 6.60 (s, 1H), 4.0 (q, 2H), 3.42 (s, 2H), 3.38 (s, 2H), 2.0 (s, 3H), 1.0 (t, 3H). Mass spectrum: m/e=350.3 (p+1). TLC (10/1 chloroform/methanol) Rf=0.35. Step 9:

reactant | tosylmethyl isocyanide | 11.6 mmol, 2.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium bis(trimethylsilyl) amide | 11.6 mmol, 0.5M, 23 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-{3-[[benzyl-methyl-amino]-methyl]-pyridin-2-yl}-acrylic acid ethyl ester | 5.8 mmol, 1.8 g | C(C)OC(C=CC1=NC=CC=C1CN(C)CC1=CC=CC=C1)=O | C19H22N2O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-{3-[[benzyl-methyl-amino]-methyl]-pyridin-2-yl}-1H-pyrrole-3-carboxylic acid ethyl ester | 1.9 grams | C(C)OC(=O)C1=CNC=C1C1=NC=CC=C1CN(C)CC1=CC=CC=C1 | C21H23N3O2
